US05380718
Step A: 1-(3-Chlorophenyl)-1,4,5,6-tetrahydro-6-phenyl-3-pyridazinecarboxylic acid, ethyl ester
To 12.0 g (0.112 mol) of sodium carbonate suspended in 50 mL THF was added 5.0 g (0.028 mol) 3-chlorophenyl hydrazine hydrochloride, 6.5 g (0.033 mol) ethyl bromopyruvate and 44.0 g (0.42 mol) styrene. The reaction mixture was stirred at room temperature for 18 h, filtered through a plug of celite, rinsed with methylene chloride and concentrated under reduced pressure. The crude reaction mixture was flash chromatographed using 10% EtOAc/90% hexanes as eluent to afford 3.2 g of a yellow solid, mp 125-126° C. 1H NMR (CDCl3) δ: 1.39 (t, 3H), 1.8-2.3 (m, 3H), 2.7 (d, 1H), 4.35 (m, 2H), 5.12 (bs, 1H), 6.95 (m, 1H), 7.0-7.4 (m, 8H).

reactant | sodium carbonate | 0.112 mol, 12.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-chlorophenyl hydrazine hydrochloride | 0.028 mol, 5.0 g | Cl.ClC=1C=C(C=CC1)NN
reactant | ethyl bromopyruvate | 0.033 mol, 6.5 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | styrene | 0.42 mol, 44.0 g | C=CC1=CC=CC=C1 | C8H8
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(3-Chlorophenyl)-1,4,5,6-tetrahydro-6-phenyl-3-pyridazinecarboxylic acid, ethyl ester | 3.2 g | ClC=1C=C(C=CC1)N1N=C(CCC1C1=CC=CC=C1)C(=O)OCC | C19H19ClN2O2
